US06951848B2
[2-(4-Amino-phenyl)-ethyl]-carbamic acid tert-butyl ester (1.0 g, 2.76 mmol), benzyl acetoacetate (0.796 g, 4.14 mmol) and toluenesulfonic acid (0.026 g, 0.138 mmol) were refluxed in toluene at 125° C. 3 hours. The reaction was then cooled, evaporated to dryness, the crude redissolved in EtOAc and dried over anhydrous Na2SO4. Filtration under vacuum followed by purification on SiO2 (30% EtOAc/hexane) gave 1.055 g (71%) of the desired (E)-3-[4-(2-tert-butoxycarbonylamino-ethyl)-2-methyl-phenylamino]-but-2-enoicacid benzyl ester. 1HNMR (400 MHz, DMSO): δ 1.32 (s, 9H), 1.81 (s, 3H, olefineCH3),2.63 (t, J=2.96 Hz, 2H), 3.12 (q, J=6.03 Hz, 2H), 4.77 (s, 1H, olefineH), 5.07 (s, 2H), 6.83 (b, ArH), 7.20-7.35 (m, 6H, ArH), 7.70 (s, 1H, ArH), 10.05 (s, ArNH). MS(APCI−) m/z 535.2(M−1).

reactant | [2-(4-Amino-phenyl)-ethyl]-carbamic acid tert-butyl ester | 2.76 mmol, 1.0 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)N)=O | C13H20N2O2
reactant | benzyl acetoacetate | 4.14 mmol, 0.796 g | C(CC(=O)C)(=O)OCC1=CC=CC=C1 | C11H12O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | toluenesulfonic acid | 0.138 mmol, 0.026 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
product | (E)-3-[4-(2-tert-butoxycarbonylamino-ethyl)-2-methyl-phenylamino]-but-2-enoicacid benzyl ester | 1.055 g, 71% | C(C1=CC=CC=C1)OC(\C=C(/C)\NC1=C(C=C(C=C1)CCNC(=O)OC(C)(C)C)C)=O | C25H32N2O4
